US08835409B2
Preparation of (Z)-methyl 4-amino-6-chloro-5-fluoro-3-(prop-1-en-1-yl)picolinate (Compound 4)
Methyl 4-amino-6-chloro-5-fluoro-3-iodopicolinate (0.4 g, 1.210 mmol), (E)-tributyl(prop-1-en-1-yl)stannane (0.481 g, 1.452 mmol), and bis(triphenylphosphine)palladium(II) chloride (0.085 g, 0.121 mmol) in dichloroethane (2.42 mL) were irradiated at 120° C. for 30 min in a microwave reactor. Celite was then added to the reaction mixture and the solvent was removed under vacuum. The crude product was first purified by flash column chromatography (SiO2, hexane/EtOAc gradient) then by reverse phase HPLC to afford the title compound as an orange oil: 1H NMR (400 MHz, CDCl3) δ 6.39 (dq, J=11.1, 1.7 Hz, 1H), 6.07 (dq, J=11.2, 6.9 Hz, 1H), 4.64 (s, 2H), 3.89 (s, 3H), 1.55 (dd, J=6.9, 1.7 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −139.48; EIMS m/z 245 ([M+H]+).

reactant | Methyl 4-amino-6-chloro-5-fluoro-3-iodopicolinate | 1.210 mmol, 0.4 g | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)I | C7H5ClFIN2O2
reactant | (E)-tributyl(prop-1-en-1-yl)stannane | 1.452 mmol, 0.481 g | C(CCC)[Sn](\C=C\C)(CCCC)CCCC
solvent | dichloroethane | 2.42 mL | ClC(C)Cl | C2H4Cl2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.121 mmol, 0.085 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (Z)-methyl 4-amino-6-chloro-5-fluoro-3-(prop-1-en-1-yl)picolinate | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)\C=C/C | C10H10ClFN2O2
